Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left upper extremity hand/arm numbness and weakness.
 
Major Surgical or Invasive Procedure:
___ Right cystoperitoneal Shunt
 
History of Present Illness:
___ yo female known to our service.  She was recently seen by
us for evaluation after a new onset seizure and a Head CT that
showed a large right arachnoid cyst.  She was discharged on
keppra and recently follow up with Dr. ___ on ___.  She
returns to the ED today with 1 day of numbness in the LUE,
primarily the left hand along with left hand clumsiness.  She
does complain of feeling "off" which she attributes to the
Keppra.  She denies any new HA, any N/V, dizziness, or visual
changes. She was admitted to Neurosurgery for close monitoring. 

 
Past Medical History:
PMHx: seizure, arachnoid cyst.

 
Social History:
___
Family History:
No significant family history.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: T: 98 BP: 111/67         HR:76    R: 18      O2Sats: 97% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___, equal EOMs: intact
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally with Right
to left and upbeating nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Left tongue deviation.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. 4+/5 Left tricep/bicep/delt/opponens and wrist 
flex/ext.
Left pronator drift

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Reflexes: B T Br Pa Ac
Right     ___  2  2
Left      ___  2  2

Toes downgoing bilaterally.

Coordination: dysmetria with finger-nose-finger on the left and
slow rapid alternating movement on the left hand.

PHYSICAL EXAMINATION ON DISCHARGE:
PHYSICAL EXAMINATION ON ADMISSION:
O: 
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___, equal EOMs: intact.  Incisions clean, dry, 
intact.
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally no 
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: No tongue deviation

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. ___ BUE and BLE with the exception of 4+/5 Left grip
Left pronator drift

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Reflexes: B T Br Pa Ac
Right     ___  2  2
Left      ___  2  2

Toes downgoing bilaterally.

Coordination: no dysmetria

 
Pertinent Results:
___ CT HEAD W/O CONTRAST
No significant change in right frontal lobe CSF density mass 
since prior 
imaging. No acute intracranial hemorrhage. 

___ PRE-SURGICAL PLANNING W
IMPRESSION: 
Re- demonstration of the nonenhancing intra-axial 7.1 cm right 
frontal 
cystic lesion with stable mass effect. 

___ CT HEAD W/O CONTRAST
IMPRESSION: 
1. Status post placement a shunt catheter into a large right 
hemispheric CSF density lesion, with a moderate amount 
pneumocephalus and an interval decrease in size now measuring up 
to 6.2 cm. 
2. New dependent hemorrhage is identified along the posterior 
aspect of the cystic lesion. 
3. Interval decrease in the amount of midline shift and 
effacement of the 
right lateral ventricle. 

___. Interval placement of an internalized shunt with tip in the 
known right 
arachnoid cyst, now smaller in size compared to prior exam, with 
expected 
intracranial pneumocephalus and improvement in mild leftward 
midline shift. 

___ Shunt series
1. Appropriate positioning of the shunt with the proximal end 
located in the arachnoid cyst and the distal tip seen in the 
left mid-abdomen. No evidence of pneumothorax or 
pneumoperitoneum. 
2. IUD is incidentally noted in the pelvis. 

 
Brief Hospital Course:
Ms. ___ is a ___ y/o female known to the neurosurgery service 
with a known large right arachnoid cyst. She was recently 
admitted with a new onset seizure and discharged on Keppra. She 
returns to the ED on ___ with one day of left upper extremity 
numbness, clumsiness or weakness. She underwent a head CT which 
showed the right parietal cyst, stable in size. There was no 
intracranial hemorrhage noted on imaging. The neurology team was 
consulted and do not believe her symptoms are the result of 
seizure activity. They recommended continuing the Keppra at her 
current dose. 

On ___, the patient continued to have left upper extremity 
weakness on examination. It was determined she would undergo 
placement of a cystoperitoneal shunt in the operating room the 
following day. She underwent a pre-operative work-up in 
anticipation for the surgery. She was made NPO after midnight. 
The risks and benefits of the surgery were discussed and the 
patient consented to the procedure. 

On ___, the patient was taken to the OR with Dr. ___ 
placement of a right cystoperitoneal shunt.  Her operative 
course was uncomplicated; she was extubated and transferred to 
PACU in stable condition.  Post-op CT showed expected post-op 
changes with a moderate amount of pneumocephalus, decrease in 
size of the cyst,  decrease in the amount of midline shift and 
right lateral ventricle effacement. Her neurologic exam 
post-operatively was stable. The patient was transferred to the 
step-down unit for close neurological monitoring.

On ___, the patient is clinically improved and her head CT 
shows decrease in the size of the cyst and no new findings.  She 
has been ambulating independently and will be discharged home.  
She will follow up with Dr ___ in ___ weeks with a repeat 
Head CT. 
 
Medications on Admission:
Keppra 1000mg PO BID
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
No greater than 4 grams Tylenol in 24 hours 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN HA 
no greater than 4 grams of Tylenol in 24 hours 
RX *butalbital-acetaminophen-caff 50 mg-300 mg-40 mg 1 to 2 
capsule(s) by mouth every six (6) hours Disp #*20 Capsule 
Refills:*0
3. Docusate Sodium 100 mg PO BID 
4. LevETIRAcetam 1000 mg PO BID 
5. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 (One) tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*0
6. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right parietal cystic lesion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Surgery
•You underwent surgery to have a Cystoperitoneal Shunt placed. 
•Please keep your incision dry until your sutures/staples are 
removed. 
•You may shower at this time but keep your incision dry.
•It is best to keep your incision open to air but it is ok to 
cover it when outside. 
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•***You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may experience headaches and incisional pain. 
•You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
•You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
•Feeling more tired or restlessness is also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___